US07361659B2
7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-sulfamoyl-thiazol-2-yl)-amide
The title compound was prepared from 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 2-amino-thiazole-5-sulfonic acid amide [CAS-No. 63735-95-5] according to general procedure II. Yellow solid. MS (ISP) 535.2 [(M−H)−]; mp 309° C.

reactant | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)(F)F | C15H7F6N3O2
reactant | 2-amino-thiazole-5-sulfonic acid amide | NC=1SC(=CN1)S(=O)(=O)N | C3H5N3O2S2
product | 7-Trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (5-sulfamoyl-thiazol-2-yl)-amide | S(N)(=O)(=O)C1=CN=C(S1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C18H10F6N6O3S2
